US04327221
C. 3-Acetoxy-5-(4-chlorophenyl)-6-(2-ethoxy-2-oxoethyl)-2-phenylthiazolo[2,3-b]thiazolium bromide
A mixture of 12.8 g. (0.04 m.) 4-(4-chlorophenyl)-2-mercapto-5-thiazole acetic acid of (B.) above and 8.8 g. (0.04 m.) α-bromophenylacetic acid in 200 ml. acetone and 40 ml. each of glacial acetic acid and acetic anhydride is heated in an open flask for 2 hours. The solvents are removed and the residual solid triturated with acetonitrile. 13.4 g. (61% yield) of title product is obtained, m.p. 175°-180° C.

reactant | 4-(4-chlorophenyl)-2-mercapto-5-thiazole acetic acid | ClC1=CC=C(C=C1)C=1N=C(SC1CC(=O)O)S | C11H8ClNO2S2
reactant | α-bromophenylacetic acid | BrC(C(=O)O)C1=CC=CC=C1 | C8H7BrO2
reactant | acetone | CC(=O)C | C3H6O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Acetoxy-5-(4-chlorophenyl)-6-(2-ethoxy-2-oxoethyl)-2-phenylthiazolo[2,3-b]thiazolium bromide | 61% yield | [Br-].C(C)(=O)OC1=C(SC=2SC(=C([N+]21)C2=CC=C(C=C2)Cl)CC(=O)OCC)C2=CC=CC=C2 | InChI=1S/C23H19ClNO4S2.BrH/c1-3-28-19(27)13-18-20(15-9-11-17(24)12-10-15)25-22(29-14(2)26)21(31-23(25)30-18)16-7-5-4-6-8-16;/h4-12H,3,13H2,1-2H3;1H/q+1;/p-1
